US03974186
In addition to the methods given in Examples 1 and 2, the following method has also proven useful. To a mixture of 114g (0.6 mole) of 2,6-dihydroxyanthraquinone and 1.2 liters of chlorobenzene was added a solution of 412g (2.4 moles) 2-diethylaminoethyl chloride hydrochloride in 350 ml. of water. With efficient stirring, a solution of 264g (4.0 moles) of potassium hydroxide pellets (85%) in 350 ml. of water was added. The resulting mixture was heated with continued stirring on a steam bath for about 24 hours, then cooled by adding about 500 g of ice. 400 ml. chloroform was added. The lower organic layer was separated and washed several times with water, then dried with anhydrous magnesium sulfate. After filtration, the solvents were removed under reduced pressure in a rotary evaporator The residue was recrystallized from a mixture of methanol nd chloroform as described in Example 1 to give 2,6-bis 2-(diethylamino)ethoxy anthraquinone base, M.P. 178°-181°C. The base can be converted to the dihydrochloride salt as described in Example 1.

reactant | 2,6-dihydroxyanthraquinone | OC1=CC=2C(C3=CC=C(C=C3C(C2C=C1)=O)O)=O | C14H8O4
reactant | chlorobenzene | 1.2 liters | ClC1=CC=CC=C1 | C6H5Cl
reactant | 2-diethylaminoethyl chloride hydrochloride | Cl.C(C)N(CCCl)CC
reactant | potassium hydroxide | [OH-].[K+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 2-(diethylamino)ethoxy anthraquinone | C(C)N(CCOC1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O)CC | C20H21NO3
